US09447012B2
Further, as described above, the starting material (glucaric acid or galactaric acid), rhenium catalyst, and acid catalyst are added to the reaction solvent, and reacted together at a proper temperature for a proper reaction time, then separated and purified with a conventional method (e.g., purification with silica column) to obtain glucaric acid ester or galactaric acid ester as an intermediate of adipic acid. In one embodiment, the reaction temperature ranges from 100 to 200° C., and the reaction time is 12 to 24 hours.

reactant | glucaric acid | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)O)O | C6H10O8
reactant | galactaric acid | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O | C6H10O8
catalyst | rhenium | [Re] | Re
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
